US04406690
To prewashed NaH (3×20 ml hexane) (2.52 g active NaH, 105 mmol) in dimethylformamide (DMF) (50 ml) is added 3-hydroxypyridine (10.0 g, 105 mmol) in DMF (50 ml) with cooling over 0.5 hour. The reaction mixture is stirred at RT for 1 hour and is then cooled to 15°. To this is rapidly added 4-chlorobenzyl chloride (16.25 g, 99.8 mmol) in 5 ml of DMF. The reaction is allowed to warm to RT, and is then poured into ice and extracted with chloroform (3×). The chloroform layers are combined, washed with water and with brine, dried over calcium sulfate and rotoevaporated. The crude product is poured into ice and extracted with ether (3×). The combined ether layers are washed with water and with brine, and dried over calcium sulfate to give 3-(4-chlorobenzyloxy)pyridine.

reactant | NaH | 105 mmol, 20 ml, 2.52 g | [H-].[Na+]
reactant | 3-hydroxypyridine | 105 mmol, 10.0 g | OC=1C=NC=CC1 | C5H5NO
reactant | 4-chlorobenzyl chloride | 99.8 mmol, 16.25 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
product | 3-(4-chlorobenzyloxy)pyridine | ClC1=CC=C(COC=2C=NC=CC2)C=C1 | C12H10ClNO
